US08278316B2
D. 4-(4-Chlorobenzylthio)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one
A mixture of 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(methylthio)pyrimidin-2(1H)-one (90 mg, 0.268 mmol) and (4-chlorophenyl)methanethiol (707 μl, 5.35 mmol) was heated to 145° C. (neat) for 30 min. The mixture was diluted with methylene chloride, washed with water, dried (Na2SO4) and concentrated. The crude product was subjected to ISCO flash chromatography (silica gel/hexanes:ethyl acetate 100:0 to 0:100 gradient) to afford the title compound 4-(4-chlorobenzylthio)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one A-1 (83.5 mg, 0.187 mmol, 69.8% yield) as a yellow solid. LC/MS 447 (M+H)+, tR 0.93 (method 5); 1H NMR (400 MHz, chloroform-D) δ 7.33-7.44 (3H, m), 7.24-7.31 (2H, m), 6.91-6.99 (2H, m), 6.86 (1H, dd, J=8.53, 2.51 Hz), 6.24 (1H, d, J=7.03 Hz), 4.48 (2H, s), 3.86 (3H, s), 3.85 (2H, s), 1.35 (6H, s).

reactant | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(methylthio)pyrimidin-2(1H)-one | 0.268 mmol, 90 mg | OC(COC1=C(C=C(C=C1)N1C(N=C(C=C1)SC)=O)OC)(C)C | C16H20N2O4S
reactant | (4-chlorophenyl)methanethiol | 5.35 mmol, 707 μl | ClC1=CC=C(C=C1)CS | C7H7ClS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(4-chlorobenzylthio)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one | 0.187 mmol, 83.5 mg, 69.8% yield | ClC1=CC=C(CSC2=NC(N(C=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23ClN2O4S
